US04677155
EXAMPLE 4: Preparation of m-/p-methylstyryl 1-anthraquinonyl ether
0.1 mol of 1-hydroxyanthraquinone is dissolved hot in 100 ml of N-methylpyrrolidone in a 1 liter brown glass flask with a mechanical stirrer, thermometer and condenser. After the mixture has been cooled to room temperature, 0.1 mol of NaH suspension is added in portions. When the evolution of gas has ended, 0.11 mol of a mixture of 3- and 4-vinylbenzyl chloride is added and the mixture is stirred at 100° C. for 5 hours. Stirring is continued overnight at room temperature. 100 ml of 0.1 N HCl are then added and the suspension thus formed is extracted several times by shaking with methylene chloride. After the extract has been neutralised with sodium bicarbonate solution and dried with Na2SO4 and the methylene chloride has been stripped off, an oil remains, from which a yellow crystalline product is precipitated with water. Crude yield: 33.7 g (99% of theory). The crude product is purified by column chromatography with methylene chloride; yield of m-/p-methylstyryl 1-anthraquinonyl ether=58 % of theory, melting point: 88°-90° C.

reactant | 1-hydroxyanthraquinone | 0.1 mol | OC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O3
reactant | NaH | 0.1 mol | [H-].[Na+]
reactant | HCl | 0.1 N, 100 ml | Cl | ClH
solvent | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | p-methylstyryl 1-anthraquinonyl ether | C1(=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O)OC=CC1=CC=C(C=C1)C | C23H16O3
